US07262220B2
b) N-(4-Methoxy-2-methyl-5-nitrophenyl)acetamide
34 g(0.19 mol) of N-(4-methoxy-2-methylphenyl)acetamide were added in small portions to a mixture of 40 ml of glacial acetic acid and 70 ml of fuming nitric acid at −10 to −15° C. These portions were such that the temperature did not rise above −10° C. The reaction mixture was then poured onto ice. The resulting precipitate was filtered off with suction and washed with water, ethanol and diethyl ether. 22.5 g (53%) of the desired product were obtained.

reactant | N-(4-methoxy-2-methylphenyl)acetamide | 0.19 mol, 34 g | COC1=CC(=C(C=C1)NC(C)=O)C | C10H13NO2
reactant | nitric acid | 70 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | N-(4-Methoxy-2-methyl-5-nitrophenyl)acetamide | 22.5 g, 53% | COC1=CC(=C(C=C1[N+](=O)[O-])NC(C)=O)C | C10H12N2O4
